### PR TITLE
feat: theorem for distributivity of `shiftLeft` over `^^^` and `&&&`

### PR DESCRIPTION
**Pull request by luisacicolini**
proves `bv_InstCombineShift__440`, to be later refactored with the other shift-related theorems into a more consistent family of proofs

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -652,6 +652,14 @@ theorem shiftRight_and_or_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
   rw [BitVec.shiftLeft_and_distrib]
   simp
 
+@[simp]
+theorem shiftRight_xor_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
+    (x ^^^ y >>> n &&& z) <<< n = y &&& z <<< n ^^^ x <<< n := by
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
theorem shiftRight_xor_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (x ^^^ y >>> n &&& z) <<< n = y &&& z <<< n ^^^ x <<< n := by
```

**Review by tobiasgrosser — APPROVED** [review]
